US04175203
Step A-5: Preparation of 4-Acetoxy-5-propoxy-1-iodopentane
A solution of 4-acetoxy-5-propoxy-1-pentanol tosylate (61.5 g., 0.179 mole) and sodium iodide (79.5 g., 0.53 mole) in acetone (500 ml.) is allowed to stand at 25°-27° C. for 18 hours. The precipitated sodium tosylate is filtered off. Most of the acetone is evaporated from the filtrate and the residue is treated with 300 ml. of water. The oily product is taken up in ether, washed with dilute sodium thiosulfate solution, water, and brine, and dried over sodium sulfate. The solvent is distilled in vacuo to give a quantitative yield of the crude title compound as a yellowish oil which is used without further purification.

reactant | 4-acetoxy-5-propoxy-1-pentanol tosylate | 0.179 mole, 61.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCC(COCCC)OC(C)=O | C17H26O6S
reactant | sodium iodide | 0.53 mole, 79.5 g | [I-].[Na+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-Acetoxy-5-propoxy-1-iodopentane | quantitative yield | C(C)(=O)OC(CCCI)COCCC | C10H19IO3
